US09315530B2
Step 6: (3-(2-(4-((2-amino-4-methyl-6-(pentylamino)pyrimidin-5-yl)methyl)-3-methoxyphenoxy)ethoxy)-1,1-difluoropropyl)phosphonic acid
To a solution of diethyl (3-(2-(4-((2-amino-4-methyl-6-(pentylamino)pyrimidin-5-yl)methyl)-3-methoxyphenoxy)ethoxy)-1,1-difluoropropyl)phosphonate (1 equiv.) in CH2Cl2 (0.10 M) at 0° C. was slowly added trimethylsilyl bromide (10 equiv.). After 1 h the ice-bath was removed and the reaction mixture was allowed to stir at 22° C. for 18 h. At this point the volatiles were removed in vacuo and the resulting residue was purified by Reverse Phase-HPLC using a 20-90% 0.5 mM NH4OAc (in MeCN) to 10 mM NH4OAc (in water) gradient to deliver the title compound (70%) as a solid.

reactant | diethyl (3-(2-(4-((2-amino-4-methyl-6-(pentylamino)pyrimidin-5-yl)methyl)-3-methoxyphenoxy)ethoxy)-1,1-difluoropropyl)phosphonate | 1 equiv. | NC1=NC(=C(C(=N1)C)CC1=C(C=C(OCCOCCC(F)(F)P(OCC)(OCC)=O)C=C1)OC)NCCCCC | C27H43F2N4O6P
reactant | trimethylsilyl bromide | 10 equiv. | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 0.10 M | C(Cl)Cl | CH2Cl2
product | (3-(2-(4-((2-amino-4-methyl-6-(pentylamino)pyrimidin-5-yl)methyl)-3-methoxyphenoxy)ethoxy)-1,1-difluoropropyl)phosphonic acid | NC1=NC(=C(C(=N1)C)CC1=C(C=C(OCCOCCC(F)(F)P(O)(O)=O)C=C1)OC)NCCCCC | C23H35F2N4O6P
